US07674791B2
A mixture of N-(3,5-dibromo-pyrazin-2-yl)-furan-2-carboxamidine (47 g, 0.14 mol), lead tetraacetate (95% purity, 160 g, 0.34 mol), and toluene (940 ml) was refluxed for 2 hours. The reaction was allowed to cool to room temperature and concentrated in vacuo. The resulting residue was purified by flash column chromatography on silica (hexanes:EtOAc (5:1 to 3:1)) as eluent to afford 6,8-dibromo-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyrazine as a yellow solid (19.2 g, 40% yield). 1H NMR (300 MHz, CDCl3) δ 6.60 (dd, 1H), 7.33 (d, 1H), 7.62 (d, 1H), 8.63 (s, 1H).

reactant | N-(3,5-dibromo-pyrazin-2-yl)-furan-2-carboxamidine | 0.14 mol, 47 g | BrC=1C(=NC=C(N1)Br)NC(=N)C=1OC=CC1 | C9H6Br2N4O
reactant | lead tetraacetate | 0.34 mol, 160 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | toluene | 940 ml | C1(=CC=CC=C1)C | C7H8
product | 6,8-dibromo-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyrazine | 19.2 g, 40% yield | BrC=1N=C(C=2N(C1)N=C(N2)C=2OC=CC2)Br | C9H4Br2N4O
